US05064854
2.2 g (0.7 mmol) of 4-(3-bromo-4-methoxy-phenyl)-1-tert-butyldimethylsilylpyrrolidin-2-one in 30 ml of absolute tetrahydrofuran is combined at -70° C. with 8.2 ml (0.7 ml) of a butyllithium solution in hexane. The mixture is allowed to warm up to 0° C., agitated at this temperature for 10 minutes, and again cooled to -70° C. Then a solution of 0.48 g of cyclopentanone in 10 ml of tetrahydrofuran is added dropwise thereto, the mixture is allowed to warm gradually to 0° C., and stirred at this temperature for one hour. After addition of 0.1 ml of water, the mixture is evaporated and chromatographed over silica gel with methylene chloride:acetone=1:1 as the eluent. After repeating chromatography of the corresponding fractions over silica gel with methylene chloride:ethanol=10:1 as the eluent, 110 mg of 4-[4-methoxy-3-(1-hydroxycyclopent-1-yl)phenyl]pyrrolidin-2-one is obtained as an oil.

reactant | 4-(3-bromo-4-methoxy-phenyl)-1-tert-butyldimethylsilylpyrrolidin-2-one | 0.7 mmol, 2.2 g | BrC=1C=C(C=CC1OC)C1CC(N(C1)[Si](C)(C)C(C)(C)C)=O | C17H26BrNO2Si
reactant | butyllithium | 8.2 ml | C(CCC)[Li]
reactant | cyclopentanone | 0.48 g | C1(CCCC1)=O | C5H8O
reactant | water | 0.1 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[4-methoxy-3-(1-hydroxycyclopent-1-yl)phenyl]pyrrolidin-2-one | 110 mg | COC1=C(C=C(C=C1)C1CC(NC1)=O)C1(CCCC1)O | C16H21NO3
